US09034866B2
10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (55 mg) was reacted with 4-aminotetrahydropyran similar to as described in Example 2 to produce crude 10-bromo-9-fluoro-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide which was then reacted with 2-Methyl-3-butyne-ol similar to as described in Procedure E to afford 12.5 mg of 9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 457 (M)+. 1H NMR (400 MHz, DMSO) δ 11.42 (d, J=11.5 Hz, 1H), 8.60 (d, J=8.4 Hz, 1H), 8.38 (s, 1H), 7.88 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.47 (s, 1H), 5.08-4.94 (m, 2H), 4.60-4.49 (m, 2H), 4.10-3.92 (m, 1H), 3.91-3.79 (m, 2H), 3.54-3.43 (m, 2H), 1.93-1.80 (m, 2H), 1.49 (s, 6H), 1.48-1.42 (m, 1H).

reactant | 10-Bromo-2-carbamoyl-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 55 mg | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(N)=O)C(=O)O)C1)F | C13H9BrFN3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 10-bromo-9-fluoro-N3-tetrahydropyran-4-yl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCOCC3)C1)F | C18H18BrFN4O4
